US06916345B2
2-(2,5-DIMETHYLPYRROLIDIN-1-YL)-6-METHOXYPYRID-3-YLAMINE
4.2 g (0.017 mol) of the product 2-(2,5-dimethylpyrrolidin-1-yl)-6-methoxy-3-nitropyridine synthesized according to the above procedure, 40 ml of ethanol, 10 ml of cyclohexene and 1.5 g of palladium-on-charcoal were placed in a fully equipped round-bottomed flask.

reactant | 2-(2,5-dimethylpyrrolidin-1-yl)-6-methoxy-3-nitropyridine | CC1N(C(CC1)C)C1=NC(=CC=C1[N+](=O)[O-])OC | C12H17N3O3
reactant | cyclohexene | 10 ml | C1=CCCCC1 | C6H10
catalyst | palladium-on-charcoal | 1.5 g | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(2,5-DIMETHYLPYRROLIDIN-1-YL)-6-METHOXYPYRID-3-YLAMINE | CC1N(C(CC1)C)C1=NC(=CC=C1N)OC | C12H19N3O
